US06197967B1
4-(5,5-Dimethyl-1,3,2-dioxaborolan-2-yl)benzohydrazide by Variant B
58.5 g (250 mmol) of 4-(5,5-dimethyl-1,3,2-dioxaborolan-2-yl)benzoic acid are dissolved in 250 ml of methanol, and 12.5 g (250 mmol) of hydrazine hydrate and 1.5 g (12.5 mmol) of 4-dimethylaminopyridine are added. The solution is refluxed for 12 hours. Removal of 200 ml of methanol by distillation gives 44.6 g (180 mmol, 72%) of product.

reactant | 4-(5,5-dimethyl-1,3,2-dioxaborolan-2-yl)benzoic acid | 250 mmol, 58.5 g | CC1(COB(O1)C1=CC=C(C(=O)O)C=C1)C | C11H13BO4
reactant | hydrazine hydrate | 250 mmol, 12.5 g | O.NN
solvent | methanol | 250 ml | CO | CH4O
catalyst | 4-dimethylaminopyridine | 12.5 mmol, 1.5 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-(5,5-Dimethyl-1,3,2-dioxaborolan-2-yl)benzohydrazide | 180 mmol, 44.6 g, 72% | CC1(COB(O1)C1=CC=C(C(=O)NN)C=C1)C | C11H15BN2O3
